US04055595
A mixture of ethyl 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionate (3.3 g.), N aqueous sodium hydroxide (15 ml.) and ethanol (80 ml.) is stirred at ambient temperature for 18 hours, filtered, and the filtrate is evaporated in vacuo. An aqueous suspension of the residual solid is acidified with concentrated hydrochloric acid. The solid is filtered off, washed with water, dried and crystallised from cyclohexane to give 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionic acid, m.p. 130°-33° C. (2.5 g.)

reactant | ethyl 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionate | 3.3 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)OCC)(C(F)(F)F)C(F)(F)F)C=C1 | C19H15ClF6O3
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionic acid | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(C(F)(F)F)C(F)(F)F)C=C1 | C17H11ClF6O3
